US06291465B1
To a solution of 1.75 g (3.43 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-N-(2′-methyl-4-nitro-biphenyl-2-yl)-isobutyramide in 11 ml N,N-dimethylformamide under argon 4.1 ml (4.1 mmol) of 1 M potassium hexamethyldisilazide solution in tetrahydrofuran were added dropwise at 0°. Stirring was continued for 1 h at room temperature and the reaction mixture was cooled to 0° again. At this temperature, 0.32 ml (5.14 mmol) methyl iodide were added. After stirring for 3 hrs at room temperature, ethyl acetate was added and the organic layer was washed with brine, dried (MgSO4) and evaporated. The residue was purified by chromatography (SiO2, ethyl acetate/hexane 1:1) to give 1.0 g (56%) 2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-N-(2′-methyl-4-nitro-biphenyl-2-yl)-isobutyramide as yellow crystals, MS (EI):524(M+).

reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-N-(2′-methyl-4-nitro-biphenyl-2-yl)-isobutyramide | 3.43 mmol, 1.75 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)NC1=C(C=CC(=C1)[N+](=O)[O-])C1=C(C=CC=C1)C)(C)C)(F)F | C25H20F6N2O3
reactant | potassium hexamethyldisilazide | 1 M | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | methyl iodide | 5.14 mmol, 0.32 ml | CI | CH3I
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 11 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-N-(2′-methyl-4-nitro-biphenyl-2-yl)-isobutyramide | 1.0 g, 56% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C1=C(C=CC(=C1)[N+](=O)[O-])C1=C(C=CC=C1)C)C)(C)C)(F)F | C26H22F6N2O3
